US09376436B2
(5R)-2-[4-(5-Ethoxy-2-fluoro-phenyl)-2-pyridyl]-7-methyl-1,7-diazaspiro[4.4]non-1-en-6-one (D55)
To a solution of (5R)-2-(4-bromo-pyridin-2-yl)-7-methyl-1,7-diazaspiro[4.4]non-1-en-6-one (which may be prepared as described in Description 3) (0.1670 g, 0.5419 mmol) in MeCN (2 mL) and water (0.3000 mL) in a Smith microwave vessel was added (5-ethoxy-2-fluoro-phenyl)boronic acid (0.1097 g, 0.5961 mmol), bis(triphenylphosphine)palladium (II) dichloride (0.0114 g, 0.0163 mmol) and sodium carbonate (0.1149 g, 1.0838 mmol). The reaction vessel was sealed and purged with nitrogen. The reaction mixture was heated by microwave at 100° C. for 40 min. The reaction mixture was treated with water and was extracted with DCM twice and the organic layers were collected by passing down a PhaseSep cartridge. Evaporation of solvents gave an amber oil, which was further purified by silica gel chromatography to give the desired product (5R)-2-[4-(5-ethoxy-2-fluoro-phenyl)-2-pyridyl]-7-methyl-1,7-diazaspiro[4.4]non-1-en-6-one (0.2000 g, 0.5443 mmol) (D55) as an amber oil;

reactant | (5R)-2-(4-bromo-pyridin-2-yl)-7-methyl-1,7-diazaspiro[4.4]non-1-en-6-one | 0.5419 mmol, 0.1670 g | BrC1=CC(=NC=C1)C1=N[C@@]2(CC1)C(N(CC2)C)=O | C13H14BrN3O
reactant | (5-ethoxy-2-fluoro-phenyl)boronic acid | 0.5961 mmol, 0.1097 g | C(C)OC=1C=CC(=C(C1)B(O)O)F | C8H10BFO3
reactant | sodium carbonate | 1.0838 mmol, 0.1149 g | C([O-])([O-])=O.[Na+].[Na+]
solvent | MeCN | 2 mL | CC#N | C2H3N
solvent | water | 0.3000 mL | O | H2O
catalyst | bis(triphenylphosphine)palladium | 0.0163 mmol, 0.0114 g | C1([P]([Pd][P](C2=CC=CC=C2)(C3=CC=CC=C3)C4=CC=CC=C4)(C5=CC=CC=C5)C6=CC=CC=C6)=CC=CC=C1
product | (5R)-2-[4-(5-ethoxy-2-fluoro-phenyl)-2-pyridyl]-7-methyl-1,7-diazaspiro[4.4]non-1-en-6-one | 0.5443 mmol, 0.2000 g | C(C)OC=1C=CC(=C(C1)C1=CC(=NC=C1)C1=N[C@@]2(CC1)C(N(CC2)C)=O)F | C21H22FN3O2
